US04256764
20.0 g of trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofurane and 20.0 g of 3-benyl-1,3-oxazolidine are held in 200 ml of absolute ethanol for 48 hours at 70° C. and subsequently solvent and excess 3-benzyl-1,3-oxazolidine are removed, finally in vacuum. After purification by means of a chromatographic column there is obtained 17.2 g of N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxy-phenylmethyl)-N-(2-hydroxyethyl)-N-benzylamine, a colourless oil, which solidifies in the manner of glass at oil pump vacuum.

reactant | trans-2,3-dihydro-2-(4-hydroxy-3-methoxyphenyl)-7-methoxy-3-methyl-5-(E)-propenylbenzofurane | 20.0 g | OC1=C(C=C(C=C1)[C@@H]1OC2=C([C@H]1C)C=C(C=C2OC)\C=C\C)OC | C20H22O4
reactant | 3-benyl-1,3-oxazolidine | 20.0 g | C(C1=CC=CC=C1)N1COCC1 | C10H13NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(5-(trans-2,3-dihydro-7-methoxy-3-methyl-5-(E)-propenyl-benzofuran-2-yl)-2-hydroxy-3-methoxy-phenylmethyl)-N-(2-hydroxyethyl)-N-benzylamine | 17.2 g | COC1=CC(=CC=2[C@H]([C@@H](OC21)C=2C=C(C(=C(C2)CN(CC2=CC=CC=C2)CCO)O)OC)C)\C=C\C | C30H35NO5
